US05438052
(6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid (65 mg) (0.11 mmol) and 37 mg (0.14 mmol) of 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol hydrochloride are dissolved in 3 ml of absolute dimethylacetamide. After stirring at room temperature for 24 hours a further 4.2 mg (0.016 mmol) of 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol hydrochloride are added. After a further 24 hours the solvent is removed in a high vacuum at room temperature and the residue is treated with water. The precipitated product is filtered off and washed in succession with water and diethyl ether. After drying in a high vacuum there are obtained 55 mg of (6R,7R)-7-[(Z)-2-amino-4-thiazolyl)-2-[[[(3,4-dihydroxyphenyl)sulphonyl]methoxy]imino]acetamido]-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5 -a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid as a beige powder.

reactant | (6R,7R)-7-(2-Amino-4-thiazoleglyoxylamido)-3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5-a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | 0.11 mmol, 65 mg | NC=1SC=C(N1)C(C(=O)N[C@H]1[C@H]2SCC(=C(N2C1=O)C(=O)O)CSC1=CC(=NC=2N1N=C(N2)C)C(NO)=O)=O | C20H17N9O7S3
reactant | 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol hydrochloride | 0.14 mmol, 37 mg | Cl.NOCS(=O)(=O)C=1C=C(C(O)=CC1)O
reactant | 4-[[(aminooxy)methyl]sulphonyl]pyrocatechol hydrochloride | 0.016 mmol, 4.2 mg | Cl.NOCS(=O)(=O)C=1C=C(C(O)=CC1)O
solvent | dimethylacetamide | 3 ml | CC(=O)N(C)C | C4H9NO
product | 3-[[[5-(hydroxycarbamoyl)-2-methyl-s-triazolo[1,5 -a]pyrimidin-7-yl]thio]methyl]-8-oxo-5-thia-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylic acid | ONC(=O)C1=NC=2N(C(=C1)SCC1=C(N3C(CC3SC1)=O)C(=O)O)N=C(N2)C | C15H14N6O5S2
